US07468375B2
To solid LiHMDS (61.27 g, 0.366 mol), in a 3 L 3-neck round bottom flask equipped with a 0.5 L pressure equalized addition funnel and an internal temperature probe, was added anhydrous THF (0.5 L). The mixture was placed under nitrogen and immersed in a dry ice-i-PrOH bath. The solution was allowed to stir until the internal temperature reached −78° C. (1.25 h). To this stirring cold solution was added a solution of ethyl 4,5-dibromo-1-(4-fluorobenzyl)-2-({(2-methoxy-2-oxoethyl)[(4-methylphenyl) sulfonyl]amino}methyl)-1H-pyrrole-3-carboxylate (107.43 g, 0.163 mol) in anhydrous THF (0.5 L) at such a rate that the internal temperature does not exceed −70° C. (2 hours). During the course of the addition, a yellow color was first noticed giving way to an orange/yellow solution, which then produced a precipitate and an orange/yellow solution. The reaction was allowed to stir for 30 minutes after the addition was complete, at which point LCMS (sample taken at 15 minutes after addition) indicated the reaction was complete. The mixture was rapidly poured into a 6 L separatory funnel, which had been charged with saturated aq. NH4Cl (1.5 L) and dichloromethane-methanol (95:5, 2 L). The mixture was rapidly shaken to distribute the reaction mixture and quench the reaction. The organic phase was separated, the aq. layer was extracted with dichloromethane-methanol (95:5 v/v, 1 L). The combined organic phases were filtered to remove a fine white precipitate and then dried (Na2SO4). Concentration in vacuo afforded the crude cyclized material as a yellow solid, which was triturated with EtOH (0.6 L) and the resulting white solid was isolated by filtration, washed with anhydrous ethyl ether (50 mL), and dried in a vacuum oven (approx. 20 Torr, 50° C., 16 hours) to give 40.51 g (54.4%) of methyl 2,3-dibromo-1-(4-fluorobenzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylate as a powdery white solid after drying in a vacuum oven. The filtrate was concentrated in vacuo and the residue was triturated with diethyl ether/hexanes (50:50 v/v, 0.25 L) to give 10.69 g (14.3%) of methyl 2,3-dibromo-1-(4-fluorobenzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylate as a powdery white solid after drying in a vacuum oven (approx. 20 Torr, 50° C., 16 hours). The filtrate was again treated under the same conditions (0.1 L, 50:50 v/v diethyl ether-hexanes) to give an additional 2.39 g (3.2%) for a total yield of 53.59 g (72%).

reactant | LiHMDS | 0.366 mol, 61.27 g | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | ethyl 4,5-dibromo-1-(4-fluorobenzyl)-2-({(2-methoxy-2-oxoethyl)[(4-methylphenyl) sulfonyl]amino}methyl)-1H-pyrrole-3-carboxylate | 0.163 mol, 107.43 g | BrC=1C(=C(N(C1Br)CC1=CC=C(C=C1)F)CN(S(=O)(=O)C1=CC=C(C=C1)C)CC(=O)OC)C(=O)OCC | C25H25Br2FN2O6S
reactant | NH4Cl | 1.5 L | [NH4+].[Cl-]
reactant | dichloromethane methanol | 2 L | ClCCl.CO
solvent | THF | 0.5 L | C1CCOC1 | C4H8O
solvent | THF | 0.5 L | C1CCOC1 | C4H8O
product | methyl 2,3-dibromo-1-(4-fluorobenzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylate | 40.51 g, 54.4% | BrC1=C(C=2C(=CN=C(C2O)C(=O)OC)N1CC1=CC=C(C=C1)F)Br | C16H11Br2FN2O3
